US04350637
A mixture of 4.3 g of methyl DL aminophenylpropanoate hydrochloride, 43 ml of demineralized water, 86 ml of ether and 3 ml of triethylamine was stirred at 20° C. for 10 minutes and the aqueous phase was extracted with ether. The combined ether phases were dried and evaporated to dryness under reduced pressure to obtain 8.3 g of methyl aminophenylpropanoate.

reactant | aminophenylpropanoate hydrochloride | Cl.NC(C(=O)O)(C)C1=CC=CC=C1
reactant | water | 43 ml | O | H2O
reactant | ether | 86 ml | CCOCC | C4H10O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | methyl aminophenylpropanoate | 8.3 g | NC(C(=O)OC)(C)C1=CC=CC=C1 | C10H13NO2
